US05004747
A solution of (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enoic acid (0.35 g) in dry tetrahydrofuran (10 ml) was treated with oxalyl chloride (0.26 ml) and heated at reflux for 2 hours. The solvent was then removed by distillation and the residual yellow solid was washed with petroleum ether (b.p. 40°-60° C.), to give (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enoyl chloride in the form of a pale yellow solid.

reactant | (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enoic acid | 0.35 g | FC1=CC=C(C=C1)C1=C(N(C(C2=CC=CC=C12)=O)C(C)C)/C=C/C(=O)O | C21H18FNO3
reactant | oxalyl chloride | 0.26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enoyl chloride | FC1=CC=C(C=C1)C1=C(N(C(C2=CC=CC=C12)=O)C(C)C)/C=C/C(=O)Cl | C21H17ClFNO2
